US07547710B2
To a solution of tert-butyl {[6-[(1E)-3-amino-3-oxoprop-1-en-1-yl]-2-isobutyl-4-(4-methylphenyl)-quinolin-3-yl]methyl}carbamate (250 mg, 0.53 mmol) in methanol (5 ml) and tetrahydrofuran (5 ml) was added 5% palladium-carbon (0.10 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 12 hrs. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was crystallized from diisopropyl ether to give tert-butyl {[6-(3-amino-3-oxopropyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (204 mg, yield 81%) as white crystals.

reactant | tert-butyl {[6-[(1E)-3-amino-3-oxoprop-1-en-1-yl]-2-isobutyl-4-(4-methylphenyl)-quinolin-3-yl]methyl}carbamate | 0.53 mmol, 250 mg | NC(/C=C/C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)=O | C29H35N3O3
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.10 g | [C].[Pd]
product | tert-butyl {[6-(3-amino-3-oxopropyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 204 mg, yield 81% | NC(CCC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)=O | C29H37N3O3
